US09085516B2
Preparation of 2-(3,3-dimethylcyclohexyl)pentan-2-ol
The protocol of example 1 is carried out again with 1-bromopropane replacing bromoethane and herbac replacing dehydroherbac.

reactant | 1-bromopropane | BrCCC | C3H7Br
reactant | herbac | CC(=O)C1CCCC(C1)(C)C | C10H18O
product | 2-(3,3-dimethylcyclohexyl)pentan-2-ol | CC1(CC(CCC1)C(C)(CCC)O)C | C13H26O
